US07432258B2
5-(methyloxy)-2-nitro-4-(trifluoromethyl)phenol (0.5 g, 2.1 mmol) was dissolved in 1 mL of dimethylformamide under argon. Potassium carbonate was added and the mixture was allowed to stir for 5 minutes before ethyl bromoacetate (2.3 mL, 21.0 mmol) was slowly delivered to the flask. The mixture was warmed to 80° C. and maintained at that temperature for one hour. The reaction was determined to be complete by LCMS (two Aquasil C18, 20×1 mm columns were run in sequence, 4 minutes at 0.1 mL/min, 1-99% CH3CN/H2O with 0.018% trifluoroacetic acid, ES) Rt=2.1 min and m/e 324 [M+1]+. The mixture was allowed to cool to room temperature before it was diluted with 50 mL of ethyl acetate. The organic layer was washed with water (3×20 mL) and brine (3×20 mL). The organic phase was dried over Na2SO4, filtered and concentrated to give ethyl {[5-(methyloxy)-2-nitro-4-(trifluoromethyl)phenyl]oxy}acetate (0.71 g, 2.2 mmol, 95%) as a brown amorphous solid. MS (ES) m/e 324 [M+H]+.

reactant | 5-(methyloxy)-2-nitro-4-(trifluoromethyl)phenol | 2.1 mmol, 0.5 g | COC=1C(=CC(=C(C1)O)[N+](=O)[O-])C(F)(F)F | C8H6F3NO4
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 21.0 mmol, 2.3 mL | BrCC(=O)OCC | C4H7BrO2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | CH3CN H2O | CC#N.O
product | ethyl {[5-(methyloxy)-2-nitro-4-(trifluoromethyl)phenyl]oxy}acetate | 2.2 mmol, 0.71 g, 95% | COC=1C(=CC(=C(C1)OCC(=O)OCC)[N+](=O)[O-])C(F)(F)F | C12H12F3NO6
